US04025641
0.96 g (0.02 mol) of 50% sodium hydride dispersion are freed from the mineral oil with absolute tetrahydrofuran and suspended in 30 cc of tetrahydrofuran. A solution of 1.56 g (0.02 mol) of 2-mercaptoethanol in 10 cc of tetrahydrofuran is added at 20°-25° while stirring, to this suspension. The mixture is stirred at 60° over the course of 10 hours. After this period a solution of 4.3 g (0.02 mol) of piperonyl bromide in 30 cc of tetrahydrofuran is added dropwise to the mixture. The reaction mixture is stirred at 60° over the course of 8 hours, subsequently cooled to 20° and 100 cc amounts of ether and water are added. The organic phase is separated off in a separating funnel, extracted with saturated sodium chloride solution, dried over sodium sulphate and evaporated. The residue may be purified by chromatography on silica gel with hexane/ethyl acetate (1:2). 2-Piperonylthio-ethanol is obtained as a colourless oil, which according to gas-chromatography is pure.

reactant | sodium hydride | 0.02 mol, 0.96 g | [H-].[Na+]
reactant | 2-mercaptoethanol | 0.02 mol, 1.56 g | SCCO | C2H6OS
reactant | piperonyl bromide | 0.02 mol, 4.3 g | C(C1=CC=2OCOC2C=C1)Br | C8H7BrO2
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Piperonylthio-ethanol | C(C1=CC=2OCOC2C=C1)SCCO | C10H12O3S
